US09062078B2
Step A: ethyl 3-hydroxyisoquinoline-4-carboxylate.
To a suspension of ethyl 3-aminoisoquinoline-4-carboxylate (583 mg, 2.70 mmol) in 6.8 mL of H2SO4 5N cooled to 0° C. was added sodium nitrite (223 mg, 3.24 mmol, dissolved in 1 mL of water). The reaction mixture was stirred at 0° C. for 2.5 h and then NaOH(aq) 1N was added until pH=7. The aqueous phase was extracted twice with DCM and the combined organic phases were dried over MgSO4, filtered and evaporated to give the title compound of Step A which was used without further purification in the next step (583 mg, 99%). MS (ESI) mass calcd. for C12H11NO3, 217.1; m/z found 218.1 [M+H]+.

reactant | ethyl 3-aminoisoquinoline-4-carboxylate | 2.70 mmol, 583 mg | NC=1N=CC2=CC=CC=C2C1C(=O)OCC | C12H12N2O2
reactant | sodium nitrite | 3.24 mmol, 1 mL, 223 mg | N(=O)[O-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | H2SO4 | 5N, 6.8 mL | OS(=O)(=O)O | H2O4S
product | ethyl 3-hydroxyisoquinoline-4-carboxylate | OC=1N=CC2=CC=CC=C2C1C(=O)OCC | C12H11NO3
